2125-08-22 10:51:00 Physician Attending Progress Note
Chief Complaint: Sepsis, hypotension.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2125-8-21**] 08:20 AM
 BLOOD CULTURED - At [**2125-8-21**] 09:30 AM
 URINE CULTURE - At [**2125-8-21**] 09:30 AM
 ULTRASOUND - At [**2125-8-21**] 01:02 PM
 ARTERIAL LINE - START [**2125-8-21**] 03:00 PM
 BLOOD CULTURED - At [**2125-8-21**] 03:38 PM
 BLOOD CULTURED - At [**2125-8-22**] 05:28 AM
   Vasopressor weaned to d/c, MAP remains >60 mmHg.
   Overall improved, feels "better"
   Right leg tenderness improved.
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Language barrier, Spanish-speaking
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2125-8-21**] 11:18 AM
   Ampicillin - [**2125-8-22**] 12:19 AM
   Vancomycin - [**2125-8-22**] 08:23 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**2-27**] Mild
   Pain location: right leg
   Flowsheet Data as of  [**2125-8-22**] 10:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 76 (58 - 76) bpm
   BP: 144/66(89) {103/42(63) - 144/66(89)} mmHg
   RR: 16 (11 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 16 (12 - 23)mmHg
   Total In:
                                                                  2,455 mL
                                                                    646 mL
   PO:
                                                                     80 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  2,125 mL
                                                                    406 mL
   Blood products:
                                                                    250 mL
   Total out:
                                                                  1,571 mL
                                                                    843 mL
   Urine:
                                                                  1,571 mL
                                                                    843 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    884 mL
                                                                   -197 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: 7.39/35/77/21/-2
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice, erythema right LE; area of
   ecchymosis on right pretibial region now with blister
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   10.8 g/dL
   81 K/uL
   80 mg/dL
   1.0 mg/dL
   21 mEq/L
   3.7 mEq/L
   56 mg/dL
   110 mEq/L
   137 mEq/L
   31.0 %
   10.8 K/uL
        [image002.jpg]
                             [**2125-8-20**]  11:51 PM
                             [**2125-8-20**]  11:52 PM
                             [**2125-8-21**]  12:59 AM
                             [**2125-8-21**]  09:16 AM
                             [**2125-8-21**]  03:25 PM
                             [**2125-8-22**]  04:56 AM
                             [**2125-8-22**]  05:27 AM
   WBC
   35.6
   32.9
   28.6
   10.8
   Hct
   35.5
   36.4
   33.2
   32.6
   31.0
   Plt
   138
   101
   110
   81
   Cr
   2.1
   2.3
   2.0
   1.6
   1.0
   TCO2
   16
   22
   Glucose
   95
   53
   102
   109
   80
   Other labs: PT / PTT / INR:23.8/40.7/2.3, CK / CKMB / Troponin-T:410//,
   ALT / AST:35/85, Alk Phos / T Bili:103/3.7, Amylase / Lipase:54/33,
   Differential-Neuts:93.3 %, Band:15.0 %, Lymph:2.9 %, Mono:1.0 %,
   Eos:1.0 %, Fibrinogen:80 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.0
   g/dL, LDH:349 IU/L, Ca++:7.5 mg/dL, Mg++:2.3 mg/dL, PO4:2.7 mg/dL
   Microbiology: Blood Cultures -- group B strept
   Assessment and Plan
   Sepsis
   SEPSIS -- severe, improved.  Source likely skin infection.  Plan
   continue supportive care.
   HYPOTENSION -- improved.  Monitor BP, maintain MAP > 60 mmHg.
   BACTEREMIA -- attributed to skin infection (although unclear wether
   primary or secondary  such as endovascular infection).
   NUTRITIONAL SUPPORT -- PO
   FLUIDS -- replete.  Monitor I/O.  Maintain balance.
   RIGHT LEG CELLULITIS -- antimirobials.  General surgery to follow.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2125-8-21**] 12:09 AM
   20 Gauge - [**2125-8-21**] 12:11 AM
   Arterial Line - [**2125-8-21**] 03:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2125-08-23 11:23:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PRESEP CATHETER - STOP [**2125-8-22**] 04:06 PM
 ARTERIAL LINE - STOP [**2125-8-22**] 04:10 PM
   States to feel improved, but appears more fatigued today.
   Remains off vasopressors.
   Less pain in right leg.
   Right lower extremity nodular lesion continues to progress with
   hemorrhagic blistering.
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Language barrier
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin - [**2125-8-22**] 12:19 AM
   Vancomycin - [**2125-8-22**] 08:23 AM
   Ampicillin/Sulbactam (Unasyn) - [**2125-8-23**] 12:23 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2125-8-22**] 11:11 AM
   Pantoprazole (Protonix) - [**2125-8-23**] 08:37 AM
   Morphine Sulfate - [**2125-8-23**] 08:37 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: [**2-27**] Mild
   Pain location: right leg
   Flowsheet Data as of  [**2125-8-23**] 11:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 38.1
C (100.5
   HR: 83 (70 - 87) bpm
   BP: 129/59(77) {116/55(73) - 143/68(85)} mmHg
   RR: 17 (11 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 99.2 kg (admission): 99.1 kg
   CVP: 14 (14 - 14)mmHg
   Total In:
                                                                  1,121 mL
                                                                    689 mL
   PO:
                                                                    480 mL
                                                                    480 mL
   TF:
   IVF:
                                                                    641 mL
                                                                    209 mL
   Blood products:
   Total out:
                                                                  3,283 mL
                                                                  1,030 mL
   Urine:
                                                                  3,283 mL
                                                                  1,030 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,162 mL
                                                                   -341 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , Dullness : ), (Breath
   Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes :
   , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, Rash: , No(t) Jaundice, erythema RLE; hemorrhagic
   blistering lesions lateral leg (progressed)
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   11.6 g/dL
   94 K/uL
   112 mg/dL
   0.8 mg/dL
   23 mEq/L
   4.0 mEq/L
   39 mg/dL
   104 mEq/L
   133 mEq/L
   32.2 %
   13.7 K/uL
        [image002.jpg]
                             [**2125-8-20**]  11:51 PM
                             [**2125-8-20**]  11:52 PM
                             [**2125-8-21**]  12:59 AM
                             [**2125-8-21**]  09:16 AM
                             [**2125-8-21**]  03:25 PM
                             [**2125-8-22**]  04:56 AM
                             [**2125-8-22**]  05:27 AM
                             [**2125-8-23**]  03:37 AM
   WBC
   35.6
   32.9
   28.6
   10.8
   13.7
   Hct
   35.5
   36.4
   33.2
   32.6
   31.0
   32.2
   Plt
   138
   101
   110
   81
   94
   Cr
   2.1
   2.3
   2.0
   1.6
   1.0
   0.8
   TCO2
   16
   22
   Glucose
   95
   53
   102
   109
   80
   112
   Other labs: PT / PTT / INR:23.8/40.7/2.3, CK / CKMB / Troponin-T:155//,
   ALT / AST:33/90, Alk Phos / T Bili:123/2.9, Amylase / Lipase:76/108,
   Differential-Neuts:75.0 %, Band:2.0 %, Lymph:12.0 %, Mono:6.0 %,
   Eos:0.0 %, Fibrinogen:80 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.0
   g/dL, LDH:326 IU/L, Ca++:7.6 mg/dL, Mg++:2.3 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   Sepsis, streptococcal (skin source)
   SEPSIS -- concern for continued or progressive sepsis (increased WBC,
   return of bandemia, more fatigued).  Plan to expand antimicrobials.
   LEG CELLULITIS -- concern for deep infection or collection; currently
   continues mild improvement, and CPK continues to normalize.  Continue
   to monitor exam.  Low threshold for further imaging (CT vs. MRI).
   Surgery to continue to follow.
   LEG EDEMA -- likely contributing to poor clearance of infection.
   AMYLASE elevation
 Normal abdominal exam.  Monitor serial amylase.
   Abd exam WNL currently.
   COAGULOPATHY -- improved.  Underlying cirrhosis.
   FLUIDS -- desire net negative balance.  Follow I/O.
   NUTRITIONAL SUPPORT -- PO.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2125-8-21**] 12:11 AM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 45 minutes